US07977362B2
A solution of 6-(trifluoromethyl)pyridine-3-sulfonyl chloride (190 mg, 0.78 mmol) in 2 mL dichloromethane was added dropwise to a solution of ((1R,2R)-2-aminocyclohexyl)methanol (100 mg, 0.78 mmol) and triethylamine (320 μL, 2.3 mmol) in 10 mL dichloromethane at 0° C. The reaction was stirred at 0° C. for 1 h, then concentrated and purified by flash chromatography on silica gel with 0 to 60% ethyl acetate in hexane to yield N-((1R,2R)-2-(hydroxymethyl)cyclohexyl)-6-(trifluoromethyl)pyridine-3-sulfonamide (150 mg, 57%). 1H NMR (400 MHz, CDCl3) δ ppm 9.18 (d, J=2.01 Hz, 1H), 8.37 (dd, J=8.06, 1.76 Hz, 1H), 7.83 (d, J=8.31 Hz, 1H), 5.83 (d, J=6.80 Hz, 1H), 3.77 (ddd, J=11.21, 3.78, 3.65 Hz, 1H), 3.36 (dt, J=11.33, 5.67 Hz, 1H), 2.97-3.15 (m, 1H), 2.37 (t, J=5.41 Hz, 1H), 1.73-1.87 (m, 1H), 1.67 (d, J=2.01 Hz, 1H), 1.56-1.66 (m, 2H), 1.33-1.46 (m, 1H), 1.05-1.30 (m, 4H). MS [M+H]+=339. MS [M+Na]+=361.

reactant | 6-(trifluoromethyl)pyridine-3-sulfonyl chloride | 0.78 mmol, 190 mg | FC(C1=CC=C(C=N1)S(=O)(=O)Cl)(F)F | C6H3ClF3NO2S
reactant | ((1R,2R)-2-aminocyclohexyl)methanol | 0.78 mmol, 100 mg | N[C@H]1[C@@H](CCCC1)CO | C7H15NO
reactant | triethylamine | 2.3 mmol, 320 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-((1R,2R)-2-(hydroxymethyl)cyclohexyl)-6-(trifluoromethyl)pyridine-3-sulfonamide | 150 mg, 57% | OC[C@H]1[C@@H](CCCC1)NS(=O)(=O)C=1C=NC(=CC1)C(F)(F)F | C13H17F3N2O3S
